US07557114B2
(c) 5-(4-Methyl-thiazol-2-yl)-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A3(e) from 5-(4-Methyl-thiazol-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and using trifluoacetic acid instead of hydrochloride acid. Brown solid. MS (m/e): 217.1 ([M+H]+, 100%)

reactant | 5-(4-Methyl-thiazol-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C=1SC=C(N1)C | C17H20N2O2S
reactant | hydrochloride | Cl | ClH
product | 5-(4-Methyl-thiazol-2-yl)-2,3-dihydro-1H-isoindole | CC=1N=C(SC1)C=1C=C2CNCC2=CC1 | C12H12N2S
